US08754079B2
152.3 4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide
0.072 g EDC were added to a mixture of 0.13 g 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 0.054 g N-Hydroxysuccinimide in DMF (2 ml). The reaction mixture was stirred at rt overnight then diluted with EtOAc and washed with water and brine (2×). The organic phase was passed through a hydrophobic frit and evaporated. The residue was treated with 2 ml DMF and 213 μl 3-dimethylaminopropylamine were added. The mixture was stirred at rt for 40 minutes and then diluted with EtOAc and washed with water and brine (2×). The organic phase was dried with MgSO4 and passed through a hydrophobic frit.

reactant | EDC | 0.072 g
reactant | 4-[4-fluoro-2-(trans-4-hydroxycyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.13 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CC[C@H](CC2)O | C20H20FN3O4S
reactant | N-Hydroxysuccinimide | 0.054 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[4-Fluoro-2-(trans-4-hydroxy-cyclohexyloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CC[C@H](CC2)O)S1)C)C | C25H32FN5O3S
